US07687627B2
(S)-N-{3-[4-(4-Azidomethyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The title compound was prepared by reacting (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.37 mmol) with sodium azide (2.06 mmol) and glacial acetic acid (7.1 mmol) in dimethylformamide (15 ml) at a temperature 40° C. for 14 hours and by purifying the compound by silica gel column chromatography in 72% yield.

reactant | (S)-N-{3-[4-(1-oxa-6-aza-spiro[2.5]oct-6-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 1.37 mmol | O1CC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C18H22FN3O4
reactant | sodium azide | 2.06 mmol | [N-]=[N+]=[N-].[Na+]
reactant | acetic acid | 7.1 mmol | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (S)-N-{3-[4-(4-Azidomethyl-4-hydroxypiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 72% yield | N(=[N+]=[N-])CC1(CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)O | C18H23FN6O4
